US08022209B2
Step A: 2,4-Dichloro-6-(3-chloro-thiophen-2-yl)-pyrimidine
To a solution of 3-chlorothiophene (384 mg, 3.0 mmol) in THF (6 mL) at −78° C. was added n-BuLi (1.6 M, 2 mL) and the resulting mixture stirred for 45 minutes. The resulting product was added to a solution of 2,4-dichloropyrimidine (430 mg, 2.9 mmol) in ether (10 mL) at −30° C. and the resulting mixture stirred for 30 minutes, then warmed up to 0° C. and stirred for another 30 minutes. DDQ (700 mg, 3 mmol) was added and the resulting mixture was stirred overnight, then filtered through Celite®. The filtrate was concentrated and the residue was purified by silica gel column (EtOAc/hexanes, 1:5) to yield a white solid.

reactant | 3-chlorothiophene | 3.0 mmol, 384 mg | ClC1=CSC=C1 | C4H3ClS
reactant | n-BuLi | 1.6 M, 2 mL | [Li]CCCC
reactant | 2,4-dichloropyrimidine | 2.9 mmol, 430 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | DDQ | 3 mmol, 700 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 2,4-Dichloro-6-(3-chloro-thiophen-2-yl)-pyrimidine | ClC1=NC(=CC(=N1)Cl)C=1SC=CC1Cl | C8H3Cl3N2S
